US06465467B1
Step 1: 2-(1H-Indol-6-yloxy)-1-ethanol.
A mixture of 6-hydroxyindole (2.66 g, 20 mmol) and K2CO3 (3.04 g, 22 mmol) was stirred in DMF (10 mL) at 80° C. for 10 min. A solution of ethylene carbonate (1.94 g, 22 mmol) in DMF (4 mL) was added and the mixture was heated at 125° C. for 3 h. The mixture was concentrated, diluted with water, and extracted with toluene. The organic phase was washed with 1 M aqueous Na2CO3 and brine. The organic layer was dried (Na2SO4) and concentrated. The residue was purified by flash chromatography on silica using EtOAc/toluene (1:4→36:65) as eluent. Yield 1.02 g (29%); mp 74-77° C.; HRMS m/z calcd for C10H11NO2 (M)+ 177.0790, found 177.0784. Anal. (C10H11INO2) C, H, N.

reactant | 6-hydroxyindole | 20 mmol, 2.66 g | OC1=CC=C2C=CNC2=C1 | C8H7NO
reactant | K2CO3 | 22 mmol, 3.04 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethylene carbonate | 22 mmol, 1.94 g | C1(OCCO1)=O | C3H4O3
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 2-(1H-Indol-6-yloxy)-1-ethanol | N1C=CC2=CC=C(C=C12)OCCO | C10H11NO2
